US07910595B2
(R)-1-Phenyl-N-(2,2,2-trifluoro-1-phenylethylidene)ethanamine
A solution of 2,2,2-trifluoroacetophenone (7.0 g, 40 mmol), R-(+)-α-methylbenzylamine (7.75 mL, 60 mmol), and p-toluenesulfonic acid monohydrate (0.77g, 4.0 mmol) in toluene (40 mL) was refluxed for 18 hours with a Dean-Stark trap. After cooling, the reaction mixture was diluted with toluene (50 mL), washed with 5% NaOH (1×50 mL), saturated NH4Cl (4×30 mL) and brine, dried over MgSO4, concentrated and dried at room temperature in vacuum to give the title compound as pale yellow liquid (11.1 g).

reactant | 2,2,2-trifluoroacetophenone | 40 mmol, 7.0 g | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | R-(+)-α-methylbenzylamine | 60 mmol, 7.75 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | p-toluenesulfonic acid monohydrate | 4.0 mmol, 0.77g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-1-Phenyl-N-(2,2,2-trifluoro-1-phenylethylidene)ethanamine | 11.1 g | C1(=CC=CC=C1)[C@@H](C)N=C(C(F)(F)F)C1=CC=CC=C1 | C16H14F3N
